US03966737
In the same manner as described in example 3, starting from 2,10-dichloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin and N-methylpiperazine, there is obtained 1-[2-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl]-4-methyl-piperazine which melts at 118°-120°. After recrystallisation of this base from ether and reaction with maleic acid the corresponding maleate is obtained which melts at 174°-175°.

reactant | 2,10-dichloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin | ClC1=CC2=C(SC3=C(C(C2)Cl)C=C(C=C3)F)C=C1 | C14H9Cl2FS
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 1-[2-chloro-8-fluoro-10,11-dihydro-dibenzo[b,f]thiepin-10-yl]-4-methyl-piperazine | ClC1=CC2=C(SC3=C(C(C2)N2CCN(CC2)C)C=C(C=C3)F)C=C1 | C19H20ClFN2S
